US04215216
7,8-dihydro-8-ethyl-5-morpholino-7-oxo-2-phenylpyrido[2,3-d]pyrimidine carboxylic acid ethyl ester
Four grams (0.011 mole) of 5-chloro-7,8-dihydro-8-ethyl-7-oxo-2-phenyl-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (prepared by the method of Example 3, first paragraph), 0.97 g. (0.011 mole) of morpholine and 1.2 g. (0.011 mole) of Na2CO3 were combined in 125 ml. of ethanol and heated at reflux for 4 hours. After heating, the reaction mixture was filtered and the filtrate chilled in ice. An orange solid formed which was collected on a filter. Recrystallization from ethanol gave 3.9 g. of product--m.p. 195°-197° C.

reactant | 5-chloro-7,8-dihydro-8-ethyl-7-oxo-2-phenyl-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.011 mole, Four grams | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CC)Cl | C18H16ClN3O3
reactant | morpholine | 0.011 mole | N1CCOCC1 | C4H9NO
reactant | Na2CO3 | 0.011 mole | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 7,8-dihydro-8-ethyl-5-morpholino-7-oxo-2-phenylpyrido[2,3-d]pyrimidine carboxylic acid ethyl ester | C(C)OC(=O)C1(N=CC2=C(N1)N(C(C=C2N2CCOCC2)=O)CC)C2=CC=CC=C2 | C22H26N4O4
